Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
___ EUS 

 
History of Present Illness:
This is a ___ type I diabetic who was transferred from
___ for evaluation of transaminitis as 
well
as findings of a pancreatic duct stone with obstruction.  His
illness started several weeks ago when he mentioned bilateral 
leg
and calf pain to his primary care physician who sent him for lab
testing and then ED evaluation at ___. 
Documents from ___ include that he had
abnormal LFTs at that time underwent venous duplex scan for DVT
bilaterally and a CT abdomen showed calculi in the pancreatic
duct mid body and tail with associated distal pancreatic duct
dilatation.  The ED physician at ___ spoke with the
on-call GI physician who advised ERCP but that it was not
available so the patient was advised to transfer to ___. 

The patient then left the hospital AMA and spoke with his 
primary
care doctor who advised him to return to the hospital for
evaluation at ___.  He then presented earlier today to
___ had evaluation with repeat labs 
showing
an AST of 313 and an ALT of 150 and he underwent a right upper
quadrant ultrasound.  He was then transferred to the ___
emergency department where labs showed an ALT of 109 and AST of
226 a total bilirubin of 0.3 a normal white count and INR.

In our emergency department the patient had unremarkable vital
signs and ERCP was contacted who told the ED that they plan to
perform an endoscopic ultrasound on ___.  The patient
confirms the story

And describes in further detail the nature of his calf pain to
me.  He says that when climbing stairs or going uphill the back
of his calves particularly hurt and with increased activity this
can increase to include the lower part of his upper legs.  He
denies any burning or tingling of his feet or toes and has not
had problems with ulcerations of his feet or wounds that are not
healing.

ROS
Review of systems is notable for intermittent leg swelling which
is not present currently in some degree of nausea without
vomiting.  He noted some tenderness on the initial ED evaluation
in his abdomen he does not have any pain in his abdomen
currently.  Review of systems is otherwise negative for chest
pain shortness of breath cough fevers malaise or weight change. 
He did say that when he could not afford insulin 4 months ago 
for
a period of 1 month he did lose weight during that time.  No. 
Jaundice or severe abdominal pain noted.
 
Past Medical History:
Type I diabetes mellitus

 
Social History:
___
Family History:
No premature coronary artery disease or stroke or GI pathology, 
no history of diabetes
 
Physical Exam:
ADMISSION EXAM
==============
___ Temp: 98.8 PO BP: 126/87 HR: 65 RR: 18 O2 sat: 
100%
O2 delivery: RA 
He is a thin adult male resting in bed comfortably without any
signs of confusion
His oropharynx is pink and moist
He has slightly decreased breath sounds at the right base but
there is no rales or crackles there there is no increased
respiratory effort
His pulse is regular and he has a distinct S1 and S2 without
murmurs I cannot produce any abdominal tenderness to palpation
there is no palpable organomegaly
His legs are thin bilaterally without any edema there is no
ulceration or skin breakdown to either feet or any significant
toenail pathology
He has palpable DP pulses bilaterally
Palpation of his calves did not produce any discomfort or
tenderness
He moves all extremities equally without difficulty and his
speech is fluent

DISCHARGE EXAM
==============
VITALS -Temp: 98.3 PO BP: 134/85 HR: 59 RR: 18 O2 sat: 100% O2 
delivery: RA 
___ - well-appearing, in no distress
EYES - anicteric, gaze conjugate, PERRL
ENT - moist membranes
CV - regular, normal S1/S2, no murmur 
RESPIRATORY - clear lungs bilaterally, unlabored 
GI - soft, non-tender, mildly tender in epigastrium to deep 
palpation 
MUSCULOSKELETAL - thin, no peripheral edema, 1+ DP pulses in BLE 

NEUROLOGIC - warm extremities 
PSYCHIATRIC - pleasant 
INTEGUMENTARY - no rash
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:00PM BLOOD WBC-7.0 RBC-3.13* Hgb-9.2* Hct-28.1* 
MCV-90 MCH-29.4 MCHC-32.7 RDW-14.4 RDWSD-46.3 Plt ___
___ 02:00PM BLOOD ___ PTT-29.9 ___
___ 02:00PM BLOOD Glucose-307* UreaN-5* Creat-0.5 Na-138 
K-5.1 Cl-96 HCO3-23 AnGap-19*
___ 02:00PM BLOOD ALT-109* AST-226* CK(CPK)-102 
AlkPhos-255* TotBili-0.3
___ 05:08AM BLOOD calTIBC-143* VitB12-900 Ferritn-540* 
TRF-110*
___ 05:05AM BLOOD %HbA1c-13.4* eAG-338*
___ 05:08AM BLOOD Triglyc-89 HDL-91 CHOL/HD-1.6 LDLcalc-35
___ 05:08AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG

IMAGING
=======
___ EUS
Chronic pancreatitis; pancreatic atrophy

___ ABI, bilateral lower extremities -- preliminary --
Normal study

DISCHARGE LABS
==============
___ 05:06AM BLOOD WBC-4.7 RBC-2.74* Hgb-8.1* Hct-24.3* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-14.3 RDWSD-46.1 Plt ___
___ 05:06AM BLOOD Glucose-253* UreaN-7 Creat-0.5 Na-142 
K-4.4 Cl-101 HCO3-26 AnGap-15
___ 05:06AM BLOOD ALT-68* AST-79* AlkPhos-203* TotBili-0.2
___ 05:08AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 03:20PM BLOOD RheuFac-<10 
___ 05:06AM BLOOD HIV Ab-NEG
___ 02:00PM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 05:08AM BLOOD HCV Ab-NEG
    
PENDING LABS ON DISCHARGE
=========================
___ 03:20PM BLOOD Smooth-PND
___ 03:20PM BLOOD ___
___ 03:20PM BLOOD IGG SUBCLASSES 1,2,3,4-PND
___ 03:20PM BLOOD SED RATE-Test      
 
Brief Hospital Course:
___ is a ___ man with type I diabetes mellitus, with 
findings of a pancreatic duct stone and subsequent dilatation 
seen on outside imaging who does
not have any clinical features of acute pancreatitis at this 
time.  He has associated transaminitis which ___ indicate that 
there was also a period of time when he had gallstones in 
transit.  

ACUTE/ACTIVE PROBLEMS:
# Pancreatic atrophy 
# Chronic pancreatitis 
Presented to ___ for evaluation of leg pain, but was found to 
have abnormal LFTs. At ___, he underwent Doppler scan for DVT 
(negative, bilaterally) and a CT abdomen showed calculi in the 
pancreatic duct mid body and tail with associated distal
pancreatic duct dilatation. He was transferred to ___ for 
ERCP. The patient then left the hospital AMA and spoke with his 
primary care doctor who advised him to return to the hospital 
for evaluation at ___. He then presented to ___ the day 
of transfer to ___, with repeat labs showing an AST of 313 and 
an ALT of 150. He was then transferred to the ___, where ALT 
109, AST 226 with TB 0.3. He denied any current GI symptoms, or 
prior episodes of pancreatitis. He notes that he has been sober 
for the past ___ years, but drank 6 beers/daily prior. EUS showing 
atrophic
pancreas with chronic pancreatitis. Likely due to etOH. 
Transaminases improving, but unclear as to why elevated. Notes 
need for loperamide with meals, given diarrhea; improved with 
initiation of Creon 2 capsules with meals. TGs normal; HIV 
negative; RF <10. 
-- Follow up pending studies (IgG subclasses, ___
-- Follow up with Dr. ___ ___) as outpatient 
if LFTs continue to downtrend

# Bilateral ___ pain
Describes pain in the bilateral calves, absent at rest, but 
present with exertion/climbing stairs. History of DM-I increases 
risk for vascular disease; Hb A1C 13.4%. Exam without edema, 
point tenderness or signs of vascular insufficiency. ABI normal 
in bilateral lower extremities. 
- Continue outpatient workup for leg pain

# Thrombocytopenia
Platelets in the low-100s range (100-120) without signs of 
bleeding. Discussed results of liver ultrasound (obtained at 
___, as interpreted at ___. Liver is echogenic, consistent 
with steatosis, but no signs of cirrhosis. HCV & HIV negative. 
- Would require further evaluation for thrombocytopenia & 
monitoring as outpatient

CHRONIC/STABLE PROBLEMS:
# Type I diabetes mellitus 
FSGs labile since here, from 54 to 300s range. Glargine 
decreased last night (to 80% dose) for NPO status, though 
appears rather brittle. Hb A1C 13.4%. 
- Continue home regimen of 10 units glargine HS, with sliding 
scale (Humalog starting at 150 - 3 units, up by 1 unit, for each 
range of 50); adjust as needed
- Diabetic diet 

TRANSITIONAL ISSUES
===================
-- GI follow up with Dr. ___ for chronic 
pancreatitis
-- Continued glycemic control (A1C 13.4%)
-- Further evaluation of LEG PAIN and THROMBOCYTOPENIA -- 
patient requested discharge prior to completing evaluation for 
these things & was medically stable 

Greater than 30 minutes spent on communication, coordination of 
care & discharge planning. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 10 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner

 
Discharge Medications:
1.  Creon 12 2 CAP PO TID W/MEALS 
RX *lipase-protease-amylase [Creon] 12,000 unit-38,000 
unit-60,000 unit 2 capsule(s) by mouth three times daily before 
meals Disp #*90 Capsule Refills:*0 
2.  Glargine 10 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Chronic pancreatitis c/b pancreatic insufficiency and type I 
diabetes mellitus 
# Exertional bilateral leg pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with leg pain, but found to 
have abnormal liver tests.

You had an ultrasound test to look at the blood flow to your 
legs, and this was NORMAL. Your primary doctor should continue 
to investigate your leg pain.

You also had a test to look at your pancreas -- an ENDOSCOPIC 
ULTRASOUND. This showed CHRONIC PANCREATITIS, which is likely 
while you're having diarrhea while you're eating, and ___ be 
related to your diabetes as well.
-- Take CREON, 2 capsules, before eating a meal to help with 
this.

Follow up with your doctors ___. 

We wish you the very best,
Your ___ Care Team
 
Followup Instructions:
___